US05721236
A. 3-PYRIDYL CHLOROFORMATE
A 1.93M solution of phosgene in toluene (20%) (198.3 ml) (382.3 mmoles) was diluted with dry CH2Cl2 (100 ml) and the mixture was stirred at 0° under an argon atmosphere. A solution of 3-hydroxy-pyridine (7.27 grams) (76.5 mmoles) and dry pyridine (8.06 grams) (8.25 ml) (101.9 mmoles) in dry CH2Cl2 (200 ml) was added dropwise to the stirred solution at 0° over a period of 1 hour. The mixture was stirred at 0°-25° for an additional 2 hours. A stream of nitrogen was passed through the solution to remove most of the phosgene and the solution was then evaporated to dryness to give the title compound which was dried in vacuo for 1 hour and then taken up in dry CH2 Cl2 (60 ml) and dry pyridine (60 ml) to give a stock solution of the title compound.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 382.3 mmoles, 198.3 ml | C1(=CC=CC=C1)C | C7H8
reactant | 3-hydroxy-pyridine | 76.5 mmoles, 7.27 grams | OC=1C=NC=CC1 | C5H5NO
reactant | pyridine | 101.9 mmoles, 8.25 ml, 8.06 grams | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | 3-PYRIDYL CHLOROFORMATE | ClC(=O)OC=1C=NC=CC1 | C6H4ClNO2
